US05206257
A mixture of 5-cyano-2-(2,4-dichlorophenyl)imidazole-4-carboxylic acid (40.0 g, 0.142 mol), diphenylphosphoryl azide (37.0 g, 0.142 mol) and triethylamine (14.4 g, 19.8 ml, 0.142 mol) in 2-methyl-2-propanol (dried by distillation from calcium hydride, 1400 ml) was heated at reflux for 24 hours. After cooling the mixture was filtered and the filtrate evaporated to dryness. The residue was dissolved in ethyl acetate (2250 ml) and washed with hydrochloric acid (1 M, 250 ml) saturated aqueous sodium bicarbonate solution (2×250 ml) dried over anhydrous magnesium sulphate and evaporated to dryness. The residue was recrystallized from ethanol to give 4-tert.butoxycarbonylamino)-5-cyano-2-(2,4-dichlorophenyl)imidazole (22.2 g) m.p. 185° C. (with decomposition) as an off-white solid.

reactant | 5-cyano-2-(2,4-dichlorophenyl)imidazole-4-carboxylic acid | 0.142 mol, 40.0 g | C(#N)C1=C(N=C(N1)C1=C(C=C(C=C1)Cl)Cl)C(=O)O | C11H5Cl2N3O2
reactant | diphenylphosphoryl azide | 0.142 mol, 37.0 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.142 mol, 19.8 ml, 14.4 g | C(C)N(CC)CC | C6H15N
solvent | 2-methyl-2-propanol | 1400 ml | CC(C)(C)O | C4H10O
product | 5-cyano-2-(2,4-dichlorophenyl)imidazole | 22.2 g | C(#N)C1=CN=C(N1)C1=C(C=C(C=C1)Cl)Cl | C10H5Cl2N3
